US08217028B2
Sodium hydroxide (43 mg) was added to a solution of ethyl 3-[6-(5-{5-methyl-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoate (D111) (310 mg) in iPrOH (10 mL) and water (10 mL). The resulting mixture was heated at 70° C. for 40 mins. Then 0.5 M HCl solution was added until pH was about 6. The solvent was concentrated, and the residue was dissolved in water. The precipitated solid was purified by Mass Directed Auto Prep to afford 3-[6-(5-{5-methyl-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoic acid (E85) (150 mg) as a white solid. δH (DMSO-d6, 400 MHz): 1.35 (6H, d), 2.24 (3H, s), 2.61 (2H, t), 2.96 (2H, t), 5.40 (1H, m), 7.34 (1H, d), 7.70 (2H, d), 8.11 (1H, t), 8.28 (1H, dd), 8.82 (1H, dd), 11.20 (1H, s), 12.11 (1H, br s). MS (ES): C22H22N4O4 requires 406; found 407.2 (M+H+).

reactant | Sodium hydroxide | 43 mg | [OH-].[Na+]
reactant | ethyl 3-[6-(5-{5-methyl-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoate | 310 mg | CC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=C2C(=CNC2=C1)CCC(=O)OCC | C24H26N4O4
reactant | HCl | 0.5 M | Cl | ClH
solvent | iPrOH | 10 mL | CC(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 3-[6-(5-{5-methyl-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanoic acid | 150 mg | CC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=C2C(=CNC2=C1)CCC(=O)O | C22H22N4O4
